US05521175
2. 1-tert-Butyloxycarbonyl-2(R,S)-(N,O-dimethylhydroxylamino)carbonyl-4,4-dimethylpiperidine
To a stirred solution of 1-tert-butyloxycarbonyl-4,4-dimethylpipecolic acid (24.6 g), N,O-dimethylhydroxylamino hydrochloride (12.12 g) and 1-hydroxybenzotriazole (18.09 g) in anhydrous dimethylformamide (400 ml) was added anhydrous triethylamine (30.7 ml) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (21.08 g) and the resulting mixture was stirred at room temperature for 23 hours under a nitrogen atmosphere. Diethyl ether (1 l) was added and the mixture was washed with 1N hydrochloric acid (2×250 ml), 1N sodium hydroxide (1×250 ml), brine (1×200 ml), dried (MgSO4) and concentrated. Flash chromatography (silica gel, hexane-diethyl ether, 40:60) of the residue afforded the title compound (24.1 g) as a white solid; δH (250 MHz, CDCl3) 4.76 (1H, br s), 3.92-3.74 (1H, m), 3.75 (3H, s), 3.58-3.42 (1H, m), 3.19 (3H, s), 1.84 (1H, dd, J=14.0 and 3.3 Hz), 1.64 (1H, dd, J=14.0 and 7.6 Hz), 1.52-1.34 (11H, m and s), 0.94 (3H, s), 0.92 (3H, s); m/z (CI)301 (M+ +1).

reactant | 1-tert-butyloxycarbonyl-4,4-dimethylpipecolic acid | 24.6 g | C(C)(C)(C)OC(=O)N1C(C(=O)O)CC(CC1)(C)C | C13H23NO4
reactant | N,O-dimethylhydroxylamino hydrochloride | 12.12 g | CN(OC)Cl | C2H6ClNO
reactant | 1-hydroxybenzotriazole | 18.09 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 21.08 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | Diethyl ether | 1 l | C(C)OCC | C4H10O
solvent | triethylamine | 30.7 ml | C(C)N(CC)CC | C6H15N
product | 1-tert-Butyloxycarbonyl-2(R,S)-(N,O-dimethylhydroxylamino)carbonyl-4,4-dimethylpiperidine | 24.1 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)(C)C)C(=O)N(C)OC | C15H28N2O4
